US07132426B2
4-[6-(4-Methanesulfonyl-phenylamino)-5-nitro-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (647 mg, 1.3 mmol) was dissolved in ethyl acetate under nitrogen and then 10% Pd/C was added. The mixture was stirred at room temperature for 4 hours to afford 4-[5-amino-6-(4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester as a tan solid (535 mg, 89%). 1H NMR (CDCl3, 400 MHz) δ 1.77–1.67 (m, 4H), 1.48 (s, 9H), 3.04 (s, 3H), 3.31–3.24 (m, 2H), 3.82 (m, 2H), 5.32 (m, 1H), 6.96 (s, NH), 7.53 (t, NH), 7.70 (t, 1H), 7.71 (d, 2H), 8.16 (s, 1H). Exact mass calculated for C21H29N5O5S 463.19, found 464.3 (MH+).

reactant | 4-[6-(4-Methanesulfonyl-phenylamino)-5-nitro-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 1.3 mmol, 647 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1[N+](=O)[O-])NC1=CC=C(C=C1)S(=O)(=O)C | C21H27N5O7S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-[5-amino-6-(4-methanesulfonyl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 535 mg, 89% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1N)NC1=CC=C(C=C1)S(=O)(=O)C | C21H29N5O5S
